US04889869
(d) 3-acetylthio-2-benzyl-propionic acid ethyl ester
A mixture of 576 mg of α-benzylacrylic acid ethyl ester and 0.259 ml of thioacetic acid is stirred for 20 hours at 70° and then concentrated by evaporation in vacuo. The residue is purified by flash chromatography with eluant F. Rf (C)=0.35.

reactant | α-benzylacrylic acid ethyl ester | 576 mg | C(C)OC(C(=C)CC1=CC=CC=C1)=O | C12H14O2
reactant | thioacetic acid | 0.259 ml | C(C)(=S)O | C2H4OS
product | 3-acetylthio-2-benzyl-propionic acid ethyl ester | C(C)OC(C(CSC(C)=O)CC1=CC=CC=C1)=O | C14H18O3S
